US08735417B2
3-Bromo-5-nitroaniline (6.45 g, 29.7 mmol) was dissolved in dichloromethane (149 mL) and pyridine (2.88 mL, 35.7 mmol). The solution was cooled to 0° C. and then, acetyl chloride (2.325 mL, 32.7 mmol) was added dropwise. The reaction mixture was stirred at 0° C. for 1 hour. The reaction was diluted with water and dichloromethane and the organic phase was dried over sodium sulfate and was concentrated to dryness. N-(3-bromo-5-nitrophenyl)acetamide was isolated as a beige powder (7.86 g, 30 mmol, 100%) and was of sufficient purity to carry forward without further purification.

reactant | 3-Bromo-5-nitroaniline | 29.7 mmol, 6.45 g | BrC=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | pyridine | 35.7 mmol, 2.88 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 32.7 mmol, 2.325 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 149 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-(3-bromo-5-nitrophenyl)acetamide | BrC=1C=C(C=C(C1)[N+](=O)[O-])NC(C)=O | C8H7BrN2O3
